* Z:\home\bean\RadioNotes\28mhz_class_e_latest.asc
L1 N004 N008 10µ
C1 N008 0 10p
C2 N009 N008 100p
L2 NC_01 NC_02 373.89nH
RLoad NC_03 0 10
M1 N008 N017 0 0 RD16HHF1
Vgen2 N020 0 PULSE(0 3.3 0 1n 1n {0.5/freq} {1/freq}) Rser=0
L3 N002 N001 75n
L4 N003 N002 91n
C3 N001 0 330p
C4 N002 0 910p
C5 N003 0 750p
R2 N003 0 75
C6 N012 N011 200p
L5 N012 0 130n
C7 N013 N012 110p
R4 NC_04 0 50
L6 N015 N014 390n
L7 N016 N015 390n
C8 N014 0 120p
C9 N015 0 220p
C10 N016 0 120p
R5 N016 0 50
L8 N010 N009 1.5µ
L9 N010 N009 500n
R6 N011 N010 0.05
R7 N014 N013 0.05
V1 N004 0 12
Q1 N006 N019 P001 0 2N3904
R1 N004 N006 1.5k
R3 P001 0 5
R9 N004 N019 22k
R10 N019 0 330
Q2 N005 N007 P002 0 2N3904
R11 N004 N005 330
R12 P002 0 5
C12 N007 N006 100p
R13 N004 N007 10k
R14 N007 0 330
Q3 N004 N005 N017 0 2N3904
R15 N017 0 50
R8 N018 N020 1k
C11 N019 N018 10µ
.model NPN NPN
.model PNP PNP
.lib C:\users\bean\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\bean\AppData\Local\LTspice\lib\cmp\standard.mos
.model MySwitch SW(Ron= .0003250389 Roff=10000 Vt=3.5 Vh=0)
.tran 0 30u 25u 100p startup
* ClassE - www.TonneSoftware.com
.model RD16HHF1 VDMOS(Rg=987m Rd=0m Rs=111m Vto=3.19 Kp=0.495 Lambda=0 mtriode=0.804 subthres=2.37e-02 Cgdmax=11.6p Cgdmin=1.64p Cgs=44.9p Cjo=73.1p M=0.297 Vj=0.839)
* actual Class E amplifier
.param freq 28074000
* .step param freq 28Meg 30Meg 0.1Meg
* 10 -> 75, lpf
* impedance matching network
* low pass filter
.model MRF101AN VDMOS(Rg=4 Rd=1 Rs=0.1 Vto=2.2 Kp=7.1 Lambda=0 mtriode=0.692 subthres=1.07m Cgdmax=5p Cgdmin=1p Cgs=130p Cjo=130p M=0.4 Vj=2.3 BV=140 tt=1n)
.model BS170 VDMOS VTO=1.824 RG=270 RS=1.572 RD=1.436 RB=.768 KP=.1233 Cgdmax=20p Cgdmin=3p CGS=28p Cjo=35p Rds=1.2E8 IS=5p Bv=60 Ibv=10u Tt=161.6n
.model 2N7000 VDMOS(Rg=3 Vto=1.6 Rd=0 Rs=.75 Rb=.14 Kp=.17 mtriode=1.25 Cgdmax=80p Cgdmin=12p Cgs=50p Cjo=50p Is=.04p mfg=Fairchild Vds=60 Ron=2 Qg=1.5n)
.MODEL BS250P VDMOS pchan Rg=160 VTO=-3.193 RS=2.041 RD=0.697 IS=2E-13 KP=0.277 Cjo=105p LAMBDA=1.2E-2 RB=0.309 Rds=1.2E8 Cgdmax=57p Cgdmin=5p CGS=47p TT=86.56n BV=45 IBV=10u
.backanno
.end
